US05011825
(e) Fmoc-Cys(StBu)-Arg-Phe-OtBu acetate
2.2 g of DCC are added, at 0° C., to a stirred solution of 4.31 g (10 mmol) of Fmoc-Cys(StBu)--OH, 7.74 g of H-Arg-Phe-OtBu.2 HClO4 (oily substance obtained above), 1.35 g of HOBt and 1.3 ml of N-ethylmorpholine in 40 ml of dimethylformamide. The mixture is worked up in analogy to Example 1a. The residue is triturated with diethyl ether and dried.

reactant | DCC | 2.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Fmoc-Cys(StBu)--OH | 10 mmol, 4.31 g | CC(C)(C)SSC[C@@H](C(=O)O)NC(=O)OCC1C2=CC=CC=C2C3=CC=CC=C13 | C22H25NO4S2
reactant | H-Arg-Phe-OtBu | 7.74 g | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H31N5O3
reactant | HOBt | 1.35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethylmorpholine | 1.3 ml | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Fmoc-Cys(StBu)-Arg-Phe-OtBu acetate | N([C@@H](CSSC(C)(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC(C)(C)C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12.CC(=O)O | InChI=1S/C41H54N6O6S2.C2H4O2/c1-40(2,3)53-37(50)33(23-26-15-8-7-9-16-26)46-35(48)32(21-14-22-44-38(42)43)45-36(49)34(25-54-55-41(4,5)6)47-39(51)52-24-31-29-19-12-10-17-27(29)28-18-11-13-20-30(28)31;1-2(3)4/h7-13,15-20,31-34H,14,21-25H2,1-6H3,(H,45,49)(H,46,48)(H,47,51)(H4,42,43,44);1H3,(H,3,4)/t32-,33-,34-;/m0./s1
